US05700807
A solution of 3.8 g of ethyl 4-(1,4-benzodioxan-6-yl)-2-chlorobenzofuro[3,2-b]pyridine-3-carboxylate and 3.1 g of caesium carbonate in 40 ml of DMF is treated with a solution of 1.7 g of 3,4-methylenedioxyphenol in 20 ml of dichloromethane and stirred overnight. The mixture is worked up in the customary manner and ethyl 4-(1,4-benzodioxan-6-yl)-2-(3,4-methylenedioxyphenoxy)benzofuro[3,2-b]pyridine-3-carboxylate is obtained.

reactant | ethyl 4-(1,4-benzodioxan-6-yl)-2-chlorobenzofuro[3,2-b]pyridine-3-carboxylate | 3.8 g | O1CCOC2=C1C=CC(=C2)C2=C1C(=NC(=C2C(=O)OCC)Cl)C2=C(O1)C=CC=C2 | C22H16ClNO5
reactant | caesium carbonate | 3.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,4-methylenedioxyphenol | 1.7 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 4-(1,4-benzodioxan-6-yl)-2-(3,4-methylenedioxyphenoxy)benzofuro[3,2-b]pyridine-3-carboxylate | O1CCOC2=C1C=CC(=C2)C2=C1C(=NC(=C2C(=O)OCC)OC2=CC3=C(C=C2)OCO3)C3=C(O1)C=CC=C3 | C29H21NO8
